US05438052
(6R,7R)-7-(2-Amino-4-thiazoleglyoxylamido)-3-[[[5-(hydroxycarbamoyl)-2-(hydroxymethyl)-s-triazolo[1,5-a]pyrimidin-7-yl]thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid (50 mg) (0.082 mmol) and 34 mg (0.11 mmol) of 1-[2-(aminooxy)-2-methylpropionyl]-2-(3,4-dihydroxybenzoyl)hydrazine hydrochloride are dissolved in 4 ml of absolute dimethylacetamide. After stirring at room temperature for 24 hours the solvent is removed at room temperature. The residue is treated with water. The precipitated product is filtered off under suction and washed in succession with water and diethyl ether. There are obtained 50 mg of (6R,7R)-7-[(Z)-2-(2-amino-4-thiazolyl)-2-[[1-[3-(3,4-dihydroxybenzoyl)carbazoyl]-1-methylethoxy]imino]acetamido]-3-[[[5-(hydroxycarbamoyl)-2-(hydroxymethyl)-s-triazolo[1,5-a]pyrimidin-7-yl]thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid as a beige powder.

reactant | (6R,7R)-7-(2-Amino-4-thiazoleglyoxylamido)-3-[[[5-(hydroxycarbamoyl)-2-(hydroxymethyl)-s-triazolo[1,5-a]pyrimidin-7-yl]thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | 0.082 mmol, 50 mg | NC=1SC=C(N1)C(C(=O)N[C@H]1[C@H]2SCC(=C(N2C1=O)C(=O)O)CSC1=CC(=NC=2N1N=C(N2)CO)C(NO)=O)=O | C20H17N9O8S3
reactant | 1-[2-(aminooxy)-2-methylpropionyl]-2-(3,4-dihydroxybenzoyl)hydrazine hydrochloride | 0.11 mmol, 34 mg | Cl.NOC(C(=O)NNC(C1=CC(=C(C=C1)O)O)=O)(C)C
solvent | dimethylacetamide | 4 ml | CC(=O)N(C)C | C4H9NO
product | (6R,7R)-7-[(Z)-2-(2-amino-4-thiazolyl)-2-[[1-[3-(3,4-dihydroxybenzoyl)carbazoyl]-1-methylethoxy]imino]acetamido]-3-[[[5-(hydroxycarbamoyl)-2-(hydroxymethyl)-s-triazolo[1,5-a]pyrimidin-7-yl]thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | 50 mg | NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@H]2SCC(=C(N2C1=O)C(=O)O)CSC1=CC(=NC=2N1N=C(N2)CO)C(NO)=O)=N/OC(C)(C)C(NNC(C2=CC(=C(C=C2)O)O)=O)=O | C31H30N12O12S3
